US09353066B2
Ammonium chloride (24.2 mg, 0.453 mmol) was added to a mixture of (1S)-2,2-difluoro-1-(3′-fluoro-5′-nitrobiphenyl-4-yl)ethanol (269 mg, 0.905 mmol) and iron (253 mg, 4.53 mmol) in ethanol (6 mL) and water (3 mL). The mixture was heated to reflux for 1.5 hours. Upon cooling to room temperature, the reaction mixture was filtered through CELITE and washed with ethyl acetate. The filtrate was washed with saturated aqueous NaHCO3 and brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography (ethyl acetate/hexanes) to yield (1S)-1-(3′-amino-5′-fluorobiphenyl-4-yl)-2,2-difluoroethanol. MS ESI calc'd. for C14H13F3NO [M+H]+ 268, found 268.

reactant | Ammonium chloride | 0.453 mmol, 24.2 mg | [Cl-].[NH4+]
reactant | (1S)-2,2-difluoro-1-(3′-fluoro-5′-nitrobiphenyl-4-yl)ethanol | 0.905 mmol, 269 mg | FC([C@@H](O)C1=CC=C(C=C1)C1=CC(=CC(=C1)[N+](=O)[O-])F)F | C14H10F3NO3
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | water | 3 mL | O | H2O
catalyst | iron | 4.53 mmol, 253 mg | [Fe] | Fe
product | (1S)-1-(3′-amino-5′-fluorobiphenyl-4-yl)-2,2-difluoroethanol | NC=1C=C(C=C(C1)F)C1=CC=C(C=C1)[C@@H](C(F)F)O | C14H12F3NO
